US07371751B2
2-(4-Chloro-phenylamino)-thiazole-5-carboxylic acid
A mixture of 3.0 g (11.1 mmol) 2-(4-Chloro-phenylamino)-thiazole-5-carboxylic acid ethyl ester and 6.7 ml 5M KOH in 50 ml THF and 10 ml MeOH was heated to 50° C. for 4 h and subsequently concentrated. The residue was taken up in water, acidified with acetic acid and extracted with ethyl acetat. The combined organic layers were washed with water, dried with MgSO4 and evaporated. The residue was recrystallised from ethyl acetate to obrain 2.0 g (70%) of the title compound as white crystals. (m/e): 254.9 (M+H+, 100%)

reactant | 2-(4-Chloro-phenylamino)-thiazole-5-carboxylic acid ethyl ester | 11.1 mmol, 3.0 g | C(C)OC(=O)C1=CN=C(S1)NC1=CC=C(C=C1)Cl | C12H11ClN2O2S
reactant | KOH | 5M, 6.7 ml | [OH-].[K+]
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | MeOH | 10 ml | CO | CH4O
product | 2-(4-Chloro-phenylamino)-thiazole-5-carboxylic acid | ClC1=CC=C(C=C1)NC=1SC(=CN1)C(=O)O | C10H7ClN2O2S
